US09260448B2
Compound 1: 3,7-Diphenylthieno[3,2-d]pyrimidin-4(3H)-one
Methyl 3-amino-4-phenylthiophene-2-carboxylate (100 mg, 0.43 mmol), triethyl orthoformate (1 ml), aniline (76 mg, 0.81 mmol), and acetic acid (0.1 ml) were placed in a pressure bottle. The mixture was heated with stirring at 160° C. for 18 hr. After the completion of the reaction was confirmed by TLC, the reaction mixture was cooled to room temperature and solidified with diethyl ether and EtOAc to give 42 mg (0.14 mmol, 33% yield) of the title compound as a final product.

reactant | Methyl 3-amino-4-phenylthiophene-2-carboxylate | 0.43 mmol, 100 mg | NC1=C(SC=C1C1=CC=CC=C1)C(=O)OC | C12H11NO2S
reactant | triethyl orthoformate | 1 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | aniline | 0.81 mmol, 76 mg | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,7-Diphenylthieno[3,2-d]pyrimidin-4(3H)-one | 0.14 mmol, 42 mg, 33% yield | C1(=CC=CC=C1)N1C=NC2=C(C1=O)SC=C2C2=CC=CC=C2 | C18H12N2OS
